US06479506B1
A solution of 3-(2-fluorophenyl)-5-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-6-bromo-1,2,3-triazolo[4,5-b]pyridine (0.15 g, 0.37 mmol), tributylphenyltin (0.14 ml, 0.44 mmol) and tetrakis(triphenylphosphine)-palladium(0) (0.02 g, 5 mol %) in dry DMF (2 ml) was purged with nitrogen and heated in a sealed tube at 100° C. for 24 h. The mixture was cooled, diluted with water (50 ml) and extracted with 10% methanol-dichloromethane (2×25 ml). The extracts were washed with brine (20 ml), dried (Na2SO4), filtered and concentrated. Flash column chromatography on silica gel, eluting with 2% methanol-dichloromethane, gave a yellow oil that solidified on trituration and washing with diethyl ether (2 ml). The material was recrystallised from ethyl acetate-hexane to give 3-(2-fluorophenyl)-5-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-6-phenyl-1,2,3-triazolo[4,5-b]pyridine (0.077 g, 52%) as a cream-coloured solid, m.p. 144-146° C. (EtOAc-hexane). Found: C, 62.00; H, 4.00; N, 24.01. C21H16N7OF.0.33(H2O) requires C, 61.91; H, 4.12; N, 24.07%. δH (360 MHz; CDCl3) 3.64 (3H, s), 5.56 (2H, s), 7.38-7.47 (5H, m), 7.53 (2H, dd, J=8 and 1), 7.56-7.62 (1H, m), 7.71 (1H, dd, J=8 and 8), 7.82 (1H, s) and 8.32 (1H, s); m/z (ES+) 402 (M+H+).

reactant | 3-(2-fluorophenyl)-5-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-6-bromo-1,2,3-triazolo[4,5-b]pyridine | 0.37 mmol, 0.15 g | FC1=C(C=CC=C1)N1N=NC=2C1=NC(=C(C2)Br)OCC=2N(N=CN2)C | C15H11BrFN7O
reactant | tributylphenyltin | 0.44 mmol, 0.14 ml | C(CCC)[Sn](C1=CC=CC=C1)(CCCC)CCCC
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.02 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(2-fluorophenyl)-5-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-6-phenyl-1,2,3-triazolo[4,5-b]pyridine | 0.077 g, 52% | FC1=C(C=CC=C1)N1N=NC=2C1=NC(=C(C2)C2=CC=CC=C2)OCC=2N(N=CN2)C | C21H16FN7O
